US08067638B2
Preparation of 3-(benzoylamino)benzoyl chloride
To a solution of 1.5 g of 3-(benzoylamino) benzoic acid suspended in 10 ml of toluene was added 2 ml of thionyl chloride, and the resulting mixture was stirred under a reflux condition for 2 hours. The reaction solution was returned to room temperature, and then the solvent was removed under a reduced pressure to obtain 1.53 g of the desired product (Yield: 95%) as a white solid.

reactant | 3-(benzoylamino) benzoic acid | 1.5 g | C(C1=CC=CC=C1)(=O)NC=1C=C(C(=O)O)C=CC1 | C14H11NO3
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(benzoylamino)benzoyl chloride | 1.53 g, Yield: 95% | C(C1=CC=CC=C1)(=O)NC=1C=C(C(=O)Cl)C=CC1 | C14H10ClNO2
